US08080541B2
Intermediate W: 2-Bromo-6-methoxy-4-trifluoromethyl-benzoic acid
To −75° C. cooled THF (70 ml) was added dropwise 36 ml (50.0 mmol) of a 1.4 M sec-BuLi solution in cyclohexane within 5 minutes keeping the temperature below −70° C. 7.5 ml (50.0 mmol) TMEDA were added dropwise at temperature below −70° C. within 5 minutes. A solution of 5.0 g (22.71 mmol) 2-methoxy-4-(trifluoromethyl)benzoic acid (commercial) in THF (25 ml) was added dropwise at over a period of 20 minutes. The dark green solution was stirred at −75° C. for 2 hours. A solution of 29.6 g (90.84 mmol) 1,2-dibromotetrachloroethane in THF (30 ml) was added dropwise. The off-white suspension was stirred at −75° C. for 1 hour and then allowed to warm to room temperature. The yellow solution was quenched by dropwise addition of 60 ml water under ice bath cooling. The mixture was diluted with ethyl acetate (70 ml) and water (30 ml). The aqueous layer was extracted with ethyl acetate (50 ml), acidified with HCl 25% and extracted with ethyl acetate (3×50 ml). The extracts were combined, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was stirred in heptane, filtered and dried. The solid was recrystallized from heptane (7 ml) and ethyl acetate (2 ml) to provide 815 mg (12%) of the title compound as a white solid. MS (m/e): 298.9 (M−H).

reactant | sec-BuLi | 1.4 M | [Li]C(C)CC
reactant | TMEDA | 50.0 mmol, 7.5 ml | CN(C)CCN(C)C | C6H16N2
reactant | 2-methoxy-4-(trifluoromethyl)benzoic acid | 22.71 mmol, 5.0 g | COC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O3
reactant | 1,2-dibromotetrachloroethane | 90.84 mmol, 29.6 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-Bromo-6-methoxy-4-trifluoromethyl-benzoic acid | 815 mg, 12% | BrC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)OC | C9H6BrF3O3
